US07652049B2
Step B: 1-[3,5-bis(trifluoromethyl)phenyl]-2-((tert-butoxycarbonyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl methanesulfonate
To a solution of tert-butyl{2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxyethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate (350.1 mg, 0.516 mmol) in CH2Cl2 (15 mL) was added DIPEA (450 μL, 2.58 mmol). The solution was cooled to 0° C. and MsCl (100 μL, 1.29 mmol) was added. After 45 minutes of stirring at 0° C., the reaction was diluted with EtOAc (100 mL) and washed with saturated NaHCO3 (25 mL), brine (25 mL), 1N HCl (25 mL), and brine (2×25 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was put through a short plug of silica gel with 25% EtOAc/hexanes and concentrated. The product, 1-[3,5-bis(trifluoromethyl)phenyl]-2-((tert-butoxycarbonyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl methanesulfonate, was used immediately in the next reaction without further characterization. Rf=0.33 (25% EtOAc/hexanes).

reactant | tert-butyl{2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxyethyl}{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}carbamate | 0.516 mmol, 350.1 mg | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)CC(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C33H34F9NO4
reactant | DIPEA | 2.58 mmol, 450 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | MsCl | 1.29 mmol, 100 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-[3,5-bis(trifluoromethyl)phenyl]-2-((tert-butoxycarbonyl){[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethyl methanesulfonate | CS(=O)(=O)OC(CN(CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C34H36F9NO6S
